US05902903
In Example 1 of U.S. Pat. No. 4 138 437, dimethylamine is reacted with 1-dodecanol in the presence of hydrogen and copper chromite as catalyst. To work up the reaction product, it is filtered off from the catalyst and a dodecyldimethylamine is produced as crude product. The crude product is subjected to vacuum distillation to separate off high-boiling byproducts. The distilled C12 -alkyldimethylamine obtained after taking off a first runnings contains about 140 ppm of monomethylamine, 150 ppm of dimethylamine and about 64 ppm of trimethylamine and has a more or less unpleasant odor.

reactant | dimethylamine | CNC | C2H7N
reactant | 1-dodecanol | C(CCCCCCCCCCC)O | C12H26O
catalyst | hydrogen | [H][H] | H2
catalyst | copper chromite | [Cr](=O)([O-])[O-].[Cu+2]
product | dodecyldimethylamine | C(CCCCCCCCCCC)N(C)C | C14H31N
